US05998624
4-tosylbutan-2-ol (19)
To a mixture of 1,3-butandiol (1.0 g, 11.1 mmol), Et3 3N (1.6 mL, 11.5 mmol) in CH2Cl2 (10 mL) at 0° C. was added dropwise a solution of TsCl(2.12 g, 11.1 mmol) in CH2Cl3 (5 mL). The resulting mixture was stirred at 0° C. and warmed gradually to room temperature, then kept at room temperature for overnight. It was transferred into a separatory funnel and washed with H2O (3×20 mL). The organic layer was dried (MgSO4), filtered. The filtrate was concentrated in vacuo. The residue was purified on column chromatography (silical gel, 30% ethyl acetate/hexane), thereby affording a colorless oil (1.3 g, 48%). 1H NMR (CDCl3) d 1.07 (d, J=6.0 Hz, 3 H, CH3), 1.52-1.76 (m, 2 H, CH2), 2.33 (s, 3 H, CH3), 3.84 (br s, 1 H, OH), 4.08-4.20 (m, 2 H, CH2), 7.25 (d, J=8.4 Hz, 2 H, aromatic), 7.77 (d, J=8.1 Hz, 2 H, 5 aromatic). 13C NMR (CDCl3) d 21.60 (q, CH3), 23.58 (q, CH3), 37.86 (t, CH2), 64.10 (d, CH), 67.79 (t, CH2OTs), 127.85 (d, aromatic) 129.84 (d, aromatic), 144.78 (s, aromatic), 152.23 (s, aromatic).

reactant | 1,3-butandiol | 11.1 mmol, 1.0 g | C(CC(C)O)O | C4H10O2
reactant | TsCl | 11.1 mmol, 2.12 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-tosylbutan-2-ol | 1.3 g, 48% | S(=O)(=O)(C1=CC=C(C)C=C1)CCC(C)O | C11H16O3S
